US06380387B1
To a suspension of N-[(2,6-dichlorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine (0.6 mmol, 300 mg) and sodium bicarbonate (3.6 mmol, 302 mg) in DMF (4 mL) was added iodoethane (3.6 mmol, 0.29 mL) at room temperature. The mixture was stirred for 72 h at room temperature. Then, the reaction mixture was poured into water (50 mL) and was extracted with ethyl acetate (3×20 mL). The combined extracts were washed with brine solution (60 mL) and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the filtrate gave the crude product which was purified by silica gel chromatography using a Biotage (40m) column to obtain 155 mg (50% yield) of N-[(2,6-dichlorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine ethyl ester as a crystalline white solid: mp 262-265° C. ES-HRMS m/e calcd for C25H25Cl2N3O5 (M+Na) 540.1062, found 540.1049.

reactant | N-[(2,6-dichlorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine | 0.6 mmol, 300 mg | ClC1=C(C(=CC=C1)Cl)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O | C23H21Cl2N3O5
reactant | sodium bicarbonate | 3.6 mmol, 302 mg | C([O-])(O)=O.[Na+]
reactant | iodoethane | 3.6 mmol, 0.29 mL | ICC | C2H5I
reactant | water | 50 mL | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-[(2,6-dichlorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine ethyl ester | 155 mg, 50% yield | C(C)OC([C@@H](NC(=O)C1=C(C=CC=C1Cl)Cl)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C25H25Cl2N3O5
